US07049313B2
6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thianthrene-2-carboxylic acid methyl ester
6-Bromo-thianthrene-2-carboxylic acid methyl ester (1 g, 2.8 mmol), bis(pinacolato)diboron (0.86 g, 3.4 mmol) and potassium acetate (0.12 g, 0.14 mmol) in 1,4-dioxane (15 ml) was degassed for 15 minutes. To the yellow suspension was then added PdCl2(dppf) (78 mg, 0.14 mmol) and dppf (0.83 g, 8.5 mmol). The dark red mixture was heated to 90° C. under a N2 atmosphere for 48 hours. The crude mixture was purified by flash chromatography (dichloromethane) to give viscous brown oil (1.13 g), which was used without any further purification.

reactant | 6-Bromo-thianthrene-2-carboxylic acid methyl ester | 2.8 mmol, 1 g | COC(=O)C1=CC=2SC3=CC=CC(=C3SC2C=C1)Br | C14H9BrO2S2
reactant | bis(pinacolato)diboron | 3.4 mmol, 0.86 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.14 mmol, 0.12 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.14 mmol, 78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 8.5 mmol, 0.83 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thianthrene-2-carboxylic acid methyl ester | 1.13 g | COC(=O)C1=CC=2SC3=CC=CC(=C3SC2C=C1)B1OC(C(O1)(C)C)(C)C | C20H21BO4S2
